*
*models
.include "/Users/mernaabdelbadie/Desktop/university/Fall 2022/Microelectronics/Micro Project /MOSFET_models_0p5_0p18.inc"
*data statements

*inputs
Vdd N001 0 1.8

*load lines
Vs0 in0 0 pulse(0 1.8 0 1p 1p 80n 160n)
Vs1 in1 0 pulse(1.8 0 0 1p 1p 160n 320n)

*test case 1
VI0 in2 0 pulse(0 1.8 0 1p 1p 5n 10n)
VI1 in3 0 pulse(0 1.8 0 1p 1p 10n 20n)
VI2 in4 0 pulse(0 1.8 0 1p 1p 20n 40n)
VI3 in5 0 pulse(0 1.8 0 1p 1p 40n 80n)

*inverters

*s0
M_NInv1 out0 in0 0 0 NMOS0P18 w = 0.9u l = 0.18u
M_PInv1 out0 in0 N001 N001 PMOS0P18 w = 1.8u l = 0.18u

*s1
M_NInv2 out1 in1 0 0 NMOS0P18 w = 0.9u l = 0.18u
M_PInv2 out1 in1 N001 N001 PMOS0P18 w = 1.8u l = 0.18u

*I0
M_NInv3 out2 in2 0 0 NMOS0P18 w = 0.9u l = 0.18u
M_PInv3 out2 in2 N001 N001 PMOS0P18 w = 1.8u l = 0.18u

*I1
M_NInv4 out3 in3 0 0 NMOS0P18 w = 0.9u l = 0.18u
M_PInv4 out3 in3 N001 N001 PMOS0P18 w = 1.8u l = 0.18u

*I2
M_NInv5 out4 in4 0 0 NMOS0P18 w = 0.9u l = 0.18u
M_PInv5 out4 in4 N001 N001 PMOS0P18 w = 1.8u l = 0.18u

*I3
M_NInv6 out5 in5 0 0 NMOS0P18 w = 0.9u l = 0.18u
M_PInv6 out5 in5 N001 N001 PMOS0P18 w = 1.8u l = 0.18u

*PUN
M_P1 1 out1 N001 N001 PMOS0P18 w = 5.4u l = 0.18u
M_P2 2 out0 1 1 PMOS0P18 w = 5.4u l = 0.18u
M_P3 out out5 2 2 PMOS0P18 w = 5.4u l = 0.18u
M_P4 3 out1 N001 N001 PMOS0P18 w = 5.4u l = 0.18u
M_P5 4 in0 3 3 PMOS0P18 w = 5.4u l = 0.18u
M_P6 out out4 4 4 PMOS0P18 w = 5.4u l = 0.18u
M_P7 5 in1 N001 N001 PMOS0P18 w = 5.4u l = 0.18u
M_P8 6 out0 5 5 PMOS0P18 w = 5.4u l = 0.18u
M_P9 out out3 6 6 PMOS0P18 w = 5.4u l = 0.18u
M_P10 7 in1 N001 N001 PMOS0P18 w = 5.4u l = 0.18u
M_P11 8 in0 7 7 PMOS0P18 w = 5.4u l = 0.18u
M_P12 out out2 8 8 PMOS0P18 w = 5.4u l = 0.18u

*PDN
M_N1 out out1 9 9 NMOS0P18 w = 3.6u l = 0.18u
M_N2 out out0 9 9 NMOS0P18 w = 3.6u l = 0.18u
M_N3 out out5 9 9 NMOS0P18 w = 3.6u l = 0.18u
M_N4 9 out1 10 10 NMOS0P18 w = 3.6u l = 0.18u
M_N5 9 in0 10 10 NMOS0P18 w = 3.6u l = 0.18u
M_N6 9 out4 10 10 NMOS0P18 w = 3.6u l = 0.18u
M_N7 10 in1 11 11 NMOS0P18 w = 3.6u l = 0.18u
M_N8 10 out0 11 11 NMOS0P18 w = 3.6u l = 0.18u
M_N9 10 out3 11 11 NMOS0P18 w = 3.6u l = 0.18u
M_N10 11 in1 0 0 NMOS0P18 w = 3.6u l = 0.18u
M_N11 11 in0 0 0 NMOS0P18 w = 3.6u l = 0.18u
M_N12 11 out2 0 0 NMOS0P18 w = 3.6u l = 0.18u

*capacitor
C1 out 0 0.2p
*resistor (for propagation delay and power dissipation)
R1 out 0 1k

*control statements
.tran 0.2n 320n
.meas tran current avg abs(I(Vdd))
.meas tran voltage avg V(N001)
.meas tran power avg V(N001)*abs(I(Vdd))
.meas tran power_dis avg V(out)*(I(R1))
.backanno
.end